US06897231B2
C. [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-(2-piperidylethyl)carboxamide
To a suspension of (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-(2-piperidylethyl)carboxamide.3HCl (412 mg, 0.78 mmol) and N-amino-2-(dimethylamino)acetamide (275 mg, 2.35 mmol) in anhydrous methanol (5.0 mL) in a screw-top pressure tube was added sodium methoxide (626 mL of a 25% w/w in methanol). The tube was sealed, heated in a 105° C. oil bath for 48 h and then concentrated to dryness. Purification of the residue by preparatory TLC using 40% ethyl acetate in methanol gave the desired product after precipitation from methanol/ethyl acetate with ethyl ether (12 mg, 3% yield) 1H NMR (DMSO-d6) δ 13.7 (br s, 1H), 8.7 (br s, 2H), 8.4 (s, 1H), 8.1-8.0 (m, 2H), 7.85 (br d, 1H), 7.7-7.6 (m, 2H), 3.6 (s, 2H), 3.5-3.3 (m, 2H), 2.5-2.2 (m, 6H), 2.2 (s, 6H), 1.6-1.3 (m, 6H); ES-MS (m/z) 473 [M+H]+.

reactant | (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-(2-piperidylethyl)carboxamide | C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCCC1NCCCC1 | C24H29N5O2
reactant | N-amino-2-(dimethylamino)acetamide | 2.35 mmol, 275 mg | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
product | [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-(2-piperidylethyl)carboxamide | CN(C)CC1=NNC(=N1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCCC1NCCCC1 | C26H32N8O
